US08859591B2
To a flask containing ethyl 4-((3,5-dimethyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenoxy)(3,3-dimethylcyclobutyl)methyl)benzoate (135 mg, 0.270 mmol) was added anhydrous tetrahydrofuran (0.680 mL), methanol (0.680 mL), water (0.680 mL) and sodium hydroxide (55.7 mg, 1.35 mmol). After 8 h, the reaction was concentrated and dissolved in ethyl acetate and water. 1 N hydrochloric acid was added to pH 3 and the mixture was extracted three times with ethyl acetate. The combined organic layers were dried over sodium sulfate, filtered, and concentrated to give 4-((3,5-dimethyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenoxy)(3,3-dimethylcyclobutyl)methyl)benzoic acid (110 mg, 86% yield) as an oil. 1H NMR (400 MHz, CDCl3) δ 8.06 (d, J=8.2 Hz, 2H), 7.88 (s, 1H), 7.65 (s, 1H), 7.41 (d, J=8.4 Hz, 2H), 6.58 (s, 2H), 5.03 (d, J=6.8 Hz, 1H), 2.80-2.55 (m, 1H), 2.07-1.72 (m, 9H), 1.67 (dd, J=8.2, 3.5 Hz, 1H), 1.14 (s, 3H), 1.10 (s, 3H). MS (M+1): 473.5.

reactant | ethyl 4-((3,5-dimethyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenoxy)(3,3-dimethylcyclobutyl)methyl)benzoate | 0.270 mmol, 135 mg | CC=1C=C(OC(C2=CC=C(C(=O)OCC)C=C2)C2CC(C2)(C)C)C=C(C1N1N=CC(=C1)C(F)(F)F)C | C28H31F3N2O3
reactant | tetrahydrofuran | 0.680 mL | O1CCCC1 | C4H8O
reactant | methanol | 0.680 mL | CO | CH4O
reactant | sodium hydroxide | 1.35 mmol, 55.7 mg | [OH-].[Na+]
solvent | water | 0.680 mL | O | H2O
product | 4-((3,5-dimethyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenoxy)(3,3-dimethylcyclobutyl)methyl)benzoic acid | 110 mg, 86% yield | CC=1C=C(OC(C2=CC=C(C(=O)O)C=C2)C2CC(C2)(C)C)C=C(C1N1N=CC(=C1)C(F)(F)F)C | C26H27F3N2O3
